US04419352
(b) 6-Chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylic acid
Ethyl 6-chloro-8-methoxycarbonyl-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2-carboxylate (1.313 g) was suspended in refluxing methanol (300 mls) and 0.1 M sodium hydroxide solution (65 mls) was added dropwise, with stirring. The whole was then refluxed for ten minutes, cooled, poured into water and acidified. The precipitated product was extracted into ethyl acetate, washed with water, dried with magnesium sulphate, filtered and volatiles removed in vacuo, affording 1.05 g of the crude sub-title compound as a yellow solid. This yellow solid was dissolved in sodium bicarbonate solution, filtered and the filtrate acidified. The precipitated product was collected by filtration, washed with water and dried to give 0.77 g of the sub-title compound. MP 340° C.

reactant | Ethyl 6-chloro-8-methoxycarbonyl-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2-carboxylate | 1.313 g | ClC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)OCC)=O)CCC)C(=O)OC | C20H18ClNO6
reactant | methanol | 300 mls | CO | CH4O
reactant | sodium hydroxide | 0.1 M, 65 mls | [OH-].[Na+]
reactant | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6-Chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylic acid | 0.77 g | ClC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)O)=O)CCC)C(=O)O | C17H12ClNO6
